US05660598
N-(1-ethylpentyl)-N-butylaniline was prepared from N-(1-ethyl-pentyl)aniline and bromobutane using the same method as Example 2ii).

reactant | N-(1-ethyl-pentyl)aniline | C(C)C(CCCC)NC1=CC=CC=C1 | C13H21N
reactant | bromobutane | BrCCCC | C4H9Br
product | N-(1-ethylpentyl)-N-butylaniline | C(C)C(CCCC)N(C1=CC=CC=C1)CCCC | C17H29N
